US05120738
Preparation of N-[2-(Oleoylamino)phenyl]-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide
1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (211 mg) was added to a solution of 372 mg of 2-oleoylaminoaniline and 259 mg of 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid in 30 ml of methylene chloride under ice cooling. The mixture was stirred in situ for one night. The reaction mixture was washed with water and dried over anhydrous sodium sulfate, filtered and the filtate evaporation under vacuum to obtain the crude title products. Then, the residue obtained was subjected to silica gel column chromatography to obtain 500 mg of the title compound (yield: 82%).

reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 211 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-oleoylaminoaniline | 372 mg | C(CCCCCCC\C=C/CCCCCCCC)(=O)NC1=C(N)C=CC=C1 | C24H40N2O
reactant | 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 259 mg | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(Oleoylamino)phenyl]-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide | 500 mg, yield: 82% | C(CCCCCCC\C=C/CCCCCCCC)(=O)NC1=C(C=CC=C1)NC(CCNC(=O)C1OC(OCC1(C)C)(C)C)=O | C36H59N3O5
